US08859505B2
Step a) 2-tert-Butoxycarbonylamino-3-chloro-propionic acid methyl ester (BB5-a)
A solution of triphenylphosphine (65.8 g, 0.251 mol)) and hexachloroethane (59.4 g, 0.251 mol) in dichloromethane (850 mL) was added in one portion to a solution of N-Boc-serine methyl ester (50 g, 0.228 mol) in dichloromethane (170 mL) under argon atmosphere. The reaction mixture was stirred at room temperature for 2 h and then the reaction was quenched with a saturated solution of NaHCO3 (150 mL). The organic product was extracted with dichloromethane (2×300 mL) and the combined organic layers was washed with brine (300 mL) and dried over anhydrous sodium sulphate. The solution was concentrated under reduced pressure and then triturated with Et2O (500 mL). After filtration and evaporation of the solvent, the crude product was purified by chromatography on a silica column eluted with 6-8% EtOAc in pet. ether) which gave the title compound (42 g, 78%).

reactant | triphenylphosphine | 0.251 mol, 65.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexachloroethane | 0.251 mol, 59.4 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | N-Boc-serine methyl ester | 0.228 mol, 50 g | COC([C@@H](NC(=O)OC(C)(C)C)CO)=O | C9H17NO5
solvent | dichloromethane | 850 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 170 mL | ClCCl | CH2Cl2
product | 2-tert-Butoxycarbonylamino-3-chloro-propionic acid methyl ester | 42 g, 78% | COC(C(CCl)NC(=O)OC(C)(C)C)=O | C9H16ClNO4
